2162-08-27 07:38:00 Physician Resident Progress Note
Chief Complaint: 85 year old right  handed Russian spekaing male
   history of HTN, paroxysmal afib, previous hemorrhagic CVA s/p
   craniotomy and recent diagnosis of ? bladder cancer, currently off
   anticoagulation for 3 weeks secondary to hematuria and wet macular
   degeneration who underwent transurethral resection of bladder yesterday
   and then subsequently had a stroke.
   24 Hour Events:
 EKG - At [**2162-8-26**] 09:43 PM
   overnight. patient given lasix 20 IV x2. Patient was started
   intermittently on labetalol drip with goals to hold blood pressure
   between 160 and 210. Lasix given with concern for respiratory status in
   the setting of pulmonary edema and low oxygen saturation on gas.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2162-8-27**] 04:20 AM
   Furosemide (Lasix) - [**2162-8-27**] 04:20 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient is unresponsive
   Flowsheet Data as of  [**2162-8-27**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 66 (66 - 93) bpm
   BP: 145/46(72) {127/42(64) - 215/123(133)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 100%
             Total In:
                                                                    153 mL
                                                                    124 mL
   PO:
             TF:
   IVF:
                                                                    153 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                  1,400 mL
   Urine:
                                                                    800 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -647 mL
                                                                 -1,276 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.43/41/73.[**Numeric Identifier 218**]/28/2
   Physical Examination
   General Appearance: agitated
   Eyes / Conjunctiva: Sclera edema, conjunctival injection OU, surgical
   pupils OU
   Head, Ears, Nose, Throat: Poor dentition, right gaze preference
   Cardiovascular: elevated JVP to chin
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Rhonchorous:
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, aphasic, moaning
   Labs / Radiology
   231 K/uL
   10.0 g/dL
   128 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   30.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:35 PM
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
   WBC
   11.6
   13.0
   Hct
   30.8
   30.4
   Plt
   226
   231
   Cr
   1.2
   1.3
   TropT
   0.10
   TCO2
   27
   28
   Glucose
   111
   128
   Other labs: PT / PTT / INR:16.2//1.4, CK / CKMB / Troponin-T:86/8/0.10,
   ALT / AST:[**11-3**], Alk Phos / T Bili:98/0.7, Albumin:4.1 g/dL, LDH:172
   IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   85 year old male with PMHx of intermittent afib, previous cerebral
   bleed, remote colon cancer, and hematuria presents post-op from
   transurethral bladder resection for bladder cancer with new onset
   ischemic stroke
   Embolic Stroke:  Patient presents with right gaze preference, aphasia
   and left sided paralysis.  Per neurology team, CTA is consistent with
   thrombus in the M2 segment of the MCA.  Per neurology he is not a
   candidate for TPA given his prior history of intracerebral hemorrhage
   and recent surgery.  He is also not a candidate for intra-aterial TPA
   or mechanical clot removal.  At present the patient appears to be
   protecting his airway and is alert.
   - labetalol titrate to SBP < 200 and > 160
   - will very cautiously administer lasix given pulmonary edema and allow
   blood pressure to autoregulate
   - aspirin 300 mg PR daily
   - patient cannot receive MRI of the head given previous surgical
   staples in cranium
   - will keep HOB < 30 degrees or flat as tolerated per neurology
   - tylenol PRN to avoid hyperthermia
   - tight blood glucose control with insulin sliding scale and finger
   sticks with goal of glucose < 150
   - will check hemoglobin A1c and lipid panel for risk factor
   modification
   - q 1-2 hour neurologic checks
   - NPO
   - echocardiogram pending
   - carotid dopplers pending
   Pulmonary Edema:  Unclear etiology.  Most likely related to
   hypertension.  Per anesthesia records patient only received 800 cc IVF
   during procedure.  Currently satting well on 3L NC but exam concerning
   for harsh bilateral rales and tachypnea.
   - 20 mg IV lasix now and will titrate labetalol as needed
   - if signs of respiratory distress low threshold for intubation
   - repeat CXR in AM
   Hypertension:  Patient's blood pressures appear to have ranged form
   140s to 160s as an outpatient.  Unclear etiology of his profound
   hypertension today pre and post-operatively. Patient takes only
   atenolol 50 mg daily as an outpatient.
   - lasix 20 mg IV now for pulmonary edema
   - labetalol drip to maintain systolic pressures > 160 and < 200
   Atrial Fibrillation: Currently in sinus rhythm.  Not currently
   anticoagulated given hematuria and wet macular degeneration.  Now s/p
   likely embolic stroke.
   - monitor on telemetry
   - aspirin 300 mg PR
   Bladder Cancer:  Now s/p transurethral ressection.  Pathology pending.
   Unclear if diagnosis firmly established or presumptive.
   - continue continuous bladder irrigation post-operatively
   - follow with urology
   - repeat electrolytes post-procedure
   Macular Degneration:
   - continue eye drops
   Anemia:  Patient's hematocrit is 33.2 with a MCV of 79 concerning for
   iron deficiency.
   - iron studies
   - likely start oral iron supplementation
   FEN: NPO for now, replete lytes, no IVF
   Prophylaxis: pneumoboots, pantoprazole
   Code Status: Full Code, confirmed with neice [**Name (NI) 1574**] [**Last Name (NamePattern1) 1575**]
   Communication: Brother [**Name (NI) 31**] ([**Telephone/Fax (1) 1576**]) and niece [**Name (NI) 1574**] [**Name (NI) 1575**]
   ([**Telephone/Fax (1) 1577**]). Niece is a physician in NY.
   Dispo: ICU pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-8-26**] 07:24 PM
   22 Gauge - [**2162-8-27**] 04:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-08-27 10:08:00 Physician Attending Progress Note
Chief Complaint: CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 year old male who presented for transurethral bladder resection and
   post-operative developed left-sided hemi-paresis and eye deviation and
   found to have a thrombotic MCA lesion.
   Not candidate for TPA and no neurosurgical intervention.  Has history
   of A. fib and has been off his coumadin for several weeks.
   Overnight, received small dose of lasix, labetolol drip
   24 Hour Events:
 EKG - At [**2162-8-26**] 09:43 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2162-8-27**] 04:20 AM
   Furosemide (Lasix) - [**2162-8-27**] 04:20 AM
   Other medications:
   Med list reviewed - [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:Unable
   Flowsheet Data as of  [**2162-8-27**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 74 (66 - 93) bpm
   BP: 178/72(95) {127/42(64) - 215/123(133)} mmHg
   RR: 19 (15 - 22) insp/min
   SpO2: 100%
   Height: 60 Inch
             Total In:
                                                                    153 mL
                                                                    323 mL
   PO:
             TF:
   IVF:
                                                                    153 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                  1,900 mL
   Urine:
                                                                    800 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -647 mL
                                                                 -1,577 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.43/41/73.[**Numeric Identifier 218**]/28/2
   Physical Examination
   Gen:
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   231 K/uL
   128 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   30.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:35 PM
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
   WBC
   11.6
   13.0
   Hct
   30.8
   30.4
   Plt
   226
   231
   Cr
   1.2
   1.3
   TropT
   0.10
   TCO2
   27
   28
   Glucose
   111
   128
   Other labs: PT / PTT / INR:16.2//1.4, CK / CKMB / Troponin-T:86/8/0.10,
   ALT / AST:[**11-3**], Alk Phos / T Bili:98/0.7, Albumin:4.1 g/dL, LDH:172
   IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A:
   1) Thrombotic CVA: not a TPA candidate or neurosurgical intervention
   Plan:
   - ASA
   - Tight glucose control
   - SBP 160-180
   - NPO, ECHO
   2) Respiratory Distress: pulmonary edema likely secondary to
   hypertension
   - may have had an associated acute myocardial infarction or might be
   secondary to hypertension
   Plan: Intubation and mechanical ventilation
   3) Hypertension:  goal about SBP 160-180
 discuss with neurology
   4) Atrial Fibrillation: Discuss with neurology about anti-coagulation
   for a. fib
   5) FEN: NPO
   6)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-8-26**] 07:24 PM
   22 Gauge - [**2162-8-27**] 04:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2162-08-28 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2162-8-27**] 10:30 AM
 MULTI LUMEN - START [**2162-8-27**] 06:28 PM
   Atrial fibrillation this morning, not responsive to IV lopressor.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-27**] 06:25 PM
   Infusions:
   Propofol - 8 mcg/Kg/[**Year (4 digits) 83**]
   Other ICU medications:
   Metoprolol - [**2162-8-28**] 04:34 AM
   Heparin Sodium (Prophylaxis) - [**2162-8-28**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-8-28**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 123 (56 - 131) bpm
   BP: 120/56(76) {120/44(70) - 197/81(122)} mmHg
   RR: 17 (15 - 20) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
    CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  1,027 mL
                                                                    284 mL
   PO:
   TF:
                                                                     31 mL
                                                                    153 mL
   IVF:
                                                                    996 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    200 mL
   Urine:
                                                                  2,370 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,343 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.46/39/469/26/4
   Ve: 10.3 L/[**Year (4 digits) 83**]
   PaO2 / FiO2: 1,173
   Physical Examination
   HEENT: NCAT MMM pale conjunctiva
   CV: irreg irreg rhythm S1S2
   PULM: rhonchi throughout [**1-16**] vent otherwise clear while supine w/scant
   crackles at bases
   ABD: soft nondistended +bs
   EXT: WWP 1+bp no edema, cyanosis, rashes
   NEURO: on propofol drip, withdraws to pain on R, +babinski on L
   Labs / Radiology
   215 K/uL
   9.6 g/dL
   121 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.6 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   28.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:35 PM
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
   WBC
   11.6
   13.0
   8.3
   Hct
   30.8
   30.4
   28.8
   Plt
   [**Telephone/Fax (3) 1599**]
   Cr
   1.2
   1.3
   1.3
   TropT
   0.10
   0.07
   TCO2
   27
   28
   30
   29
   Glucose
   111
   128
   121
   Other labs: PT / PTT / INR:16.8/36.0/1.5, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**11-3**], Alk Phos / T Bili:98/0.7,
   Albumin:4.1 g/dL, LDH:172 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   85 year old male with PMHx of intermittent afib, previous cerebral
   bleed, remote colon cancer, and hematuria presents post-op from
   transurethral bladder resection for bladder cancer with new onset
   ischemic stroke
   #Embolic Stroke:  Appreciate neurology recs.  Per neurology team, CTA
   is consistent with thrombus in the M2 segment of the MCA.  Currently
   maintaining SBP per neuro recs, ASA, and with arterial line to monitor
   vitals. Echo performed yeserday awaiting final read, on preliminary
   shows pulmonary hypertension. Also will have carotid dopplers today.
   Neurology following. patient cannot receive MRI of the head given
   previous surgical staples in cranium
   - SBP < 200 and > 160, ASA 300 mg PO qd, HOB < 30 degrees or flat as
   tolerated per neurology
   - NPO
   - f/u echo final read
   - carotid dopplers this AM
   -f/u neurology recommendations
   #Pulmonary Edema: Likely related to pulmonary HTN vs. flash pulmonary
   edema during stroke event. Patient is intubated, currently on AC 450
   RR16 FIO2 40% PEEP 5. CXR this morning appears slightly improved than
   yesterday.
   - 20 mg IV lasix as needed however monitor for above BP parameters
   - f/u CXR for resolution as pt is high risk of aspiration
   #Hypertension:  BPs remained within range set by neurology except for
   period of atrial fibrillation w/administration of lopressor- BPs down
   to 140s/70s.  Patient takes only atenolol 50 mg daily as an outpatient.
   Also concern for ischemic event given EKG changes and elevated CE which
   would likely suggest ischemia. Therefore, need to clarify with
   neurology if his BP goals need to be so high.
   - lasix 20 mg IV now for pulmonary edema
   - telemetry
   #Atrial Fibrillation: Patient had not been anticoagulated x3weeks given
   presenting hematuria. This is likely etiology of his stroke. He went
   into AF overnight which did not break with 20mg IV lopressor total .
   Patient was started on PO metoprolol which did not resolve arrhythmia.
   Started on amiodarone this morning with improvement in HR. Would
   benefit from good heart rate control to avoid demand ischemia.
   Currently not candidate for further anticoagulation until resolution of
   hematuria.
   -amiodarone as written, monitor BP
   - ASA, heparin
   #Bladder Cancer:  Now s/p transurethral ressection with pending
   pathology.  Will need to follow up with urology for care
   recommendations while in ICU. Patient initially with clear urine but
   progressively more bloody overnight, restarted CBI.
   - continue continuous bladder irrigation
   - follow with urology
   - repeat electrolytes
   #Macular Degneration:
   - continue eye drops
   #Anemia:  Patient's hematocrit is 33.2 with a MCV of 79 concerning for
   iron deficiency.  Likely secondary to patient
s long-standing hematuria
   but given history of malignancy (both bladder and colon ca) also may be
   playing a role.
   - iron studies
   - likely start oral iron supplementation
   #FEN: TF per nutrition recs, IV fluids with care not to overload given
   pulmonary edema, replete electrolytes as needed especially K.
   #Prophylaxis: pneumoboots, pantoprazole
   #Code Status: Full Code, confirmed with neice [**Name (NI) 1574**] [**Name (NI) 1575**]
   #Communication: Brother [**Name (NI) 31**] ([**Telephone/Fax (1) 1576**]) and niece [**Name (NI) 1574**] [**Name (NI) 1575**]
   ([**Telephone/Fax (1) 1577**]). Niece is a physician in NY.
    Dispo: ICU pending improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2162-8-27**] 09:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Coverage Note
   I saw and examined patient and reviewed the relevant history and labs.
   I was physically present with the ICU team for the key parts of the
   services provided.  I agree with the note above, including assessment
   and plan.  I would emphasize and add the following:
   The patient remains on the ventialator, sedated, with evidence of right
   MCA stroke.  Last night he went into Afib and is now on Amiodarone for
   rate control.  Right IJ inserted.  For now neuro advises no anticoag
   except aspirin, and advises keeping SBP in 160-200 range.
   On exam: Tm= 100.7, p=107 and  irreg, BP=177/77, Sat=99% on vent.  On
   A/C at 40% with 5 Peep.  ABG
s fine.  He responds to tactile stimuli
   only, not verbal.  Left foot plantar reflex present. Lungs
 rhonchi
   and bibasilar crackles Abd soft
   Lab: CBC and lytes as above.  CK = 311 but MB normal (?brain CK). Trop
   decreasing CXR suggests Right pneumonia, but no current CHF
   Problems:
   1.       Bladder cancer
   2.       Right MCA stroke
   3.       Pulm htn on echo
   4.       Paroxismal Afib
   5.       Htn
   6.       Resp failure due to pneumonia, chf, and stroke
   7.       Demand  ischemia
   8.       S/p Flash pulm edema
   9.       ASD
   Plan:
   1.       I talked to pt
s neice, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1624**] [**Name (NI) 1574**], today
   2.       Aim for BP closer to 160
   3.       Continue Amio load
   4.       Await LENIs
   5.       Keep I=O
   6.       further stroke recs per neuro
   7.       If stable over the next 48 hr we may need to wean propofol and
   see if he can breathe on his own, but he will need to have a gag
   8.       Rest of plan as outlined above.
   Patient is critically ill.  Total time = 50 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1623**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2162-8-28**] 14:13 ------

2162-08-28 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2162-8-27**] 10:30 AM
 MULTI LUMEN - START [**2162-8-27**] 06:28 PM
   -Atrial fibrillation to 140s, given lopressor total of 20mg IV without
   sufficient response. On PO metoprolol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-27**] 06:25 PM
   Infusions:
   Propofol - 8 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2162-8-28**] 04:34 AM
   Heparin Sodium (Prophylaxis) - [**2162-8-28**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-8-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 123 (56 - 131) bpm
   BP: 120/56(76) {120/44(70) - 197/81(122)} mmHg
   RR: 17 (15 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
    CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  1,027 mL
                                                                    314 mL
   PO:
   TF:
                                                                     31 mL
                                                                    166 mL
   IVF:
                                                                    996 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    200 mL
   Urine:
                                                                  2,370 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,343 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.46/39/469/26/4
   Ve: 10.3 L/min
   PaO2 / FiO2: 1,173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.6 g/dL
   121 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.6 mEq/L
   19 mg/dL
   104 mEq/L
   138 mEq/L
   28.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:35 PM
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
   WBC
   11.6
   13.0
   8.3
   Hct
   30.8
   30.4
   28.8
   Plt
   [**Telephone/Fax (3) 1599**]
   Cr
   1.2
   1.3
   1.3
   TropT
   0.10
   0.07
   TCO2
   27
   28
   30
   29
   Glucose
   111
   128
   121
   Other labs: PT / PTT / INR:16.8/36.0/1.5, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**11-3**], Alk Phos / T Bili:98/0.7,
   Albumin:4.1 g/dL, LDH:172 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2162-8-27**] 09:01 PM 30.[**Telephone/Fax (3) 1601**]
   mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-08-29 07:18:00 Physician Resident Progress Note
Chief Complaint: 85 year old male with PMHX of intermittent afib,
   previous cerebellar blled, remote colon cancer, and hmeaturai presents
   post-op from transuretral resection bladder resection for bladder
   cacncer with new onset ischemic stroke. Now intubated.
   24 Hour Events:
   Family was updated on progress yesterday. Patient had bilateral LENIs
   prelim read no evidence of DVT bilaterally. Carotid ultrasound showed
   40% stenosis of right carotid, no occlusion on the left. new echo with
   EF of 45%, severe pulmonary HTN, regional left systolic dysfunction, no
   comment on intramural thrombus. Patient started on iron yesterday for
   iron deficiency anemia. Lines were adjusted yesterday.   Started on IV
   amiodarone yesterday, currently off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-27**] 06:25 PM
   Infusions:
   Propofol - 6 mcg/Kg/[**Year (4 digits) 83**]
   Amiodarone - 0.5 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-8-29**] 06:01 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2162-8-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.1
   HR: 53 (50 - 134) bpm
   BP: 175/57(96) {120/40(65) - 191/72(112)} mmHg
   RR: 18 (15 - 22) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 7 (7 - 352)mmHg
   Total In:
                                                                  1,653 mL
                                                                    529 mL
   PO:
   TF:
                                                                    887 mL
                                                                    355 mL
   IVF:
                                                                    766 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    300 mL
   Urine:
                                                                    500 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,153 mL
                                                                    229 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 12.4 L/[**Year (4 digits) 83**]
   Physical Examination
   HEENT: NCAT MMM pale conjunctiva
   CV: regular rhythm, + S1/S2
   PULM: clear
   ABD: soft, nondistended, +bs
   EXT: WWP 1+bp no edema, cyanosis, rashes
   NEURO: on propofol drip, withdraws to pain on R, +babinski on L
   Labs / Radiology
   206 K/uL
   8.9 g/dL
   141 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   26.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:35 PM
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
                             [**2162-8-29**]  04:56 AM
   WBC
   11.6
   13.0
   8.3
   7.6
   Hct
   30.8
   30.4
   28.8
   26.4
   Plt
   [**Telephone/Fax (3) 1646**]06
   Cr
   1.2
   1.3
   1.3
   1.2
   TropT
   0.10
   0.07
   TCO2
   27
   28
   30
   29
   Glucose
   111
   128
   121
   141
   Other labs: PT / PTT / INR:15.8/41.3/1.4, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**8-4**], Alk Phos / T Bili:76/0.5,
   Albumin:3.6 g/dL, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2
   mg/dL
   Chest x-ray -
   Right IJ catheter terminates in superior vena cava. Endotracheal tube
   terminates at the carina and needs to be pulled back at least 2 cm.
   Nasogastric tube terminates in the stomach. There are multifocal patchy
   airspace opacities throughout the lungs, unchanged, which could reflect
   aspiration or pneumonia. The heart is enlarged. There is superimposed
   mild
   congestive failure.
   Assessment and Plan
   85 year old male with PMHx of intermittent afib, previous cerebral
   bleed, remote colon cancer, and hematuria presents post-op from
   transurethral bladder resection for bladder cancer with new onset
   ischemic stroke
   #Embolic Stroke:  Appreciate neurology recs.  Per neurology team, CTA
   is consistent with thrombus in the M2 segment of the MCA.  Currently
   maintaining SBP per neuro recs, ASA, and with arterial line to monitor
   vitals. Echo performed shows EF 45% which is much decreased from
   previous echo in [**2158**] when EF was 60-70%. Also echo with  regional left
   systolic dysfunction which is consistent with ischemic event. Evidence
   of pulmonary hyptertenion. no evidence of thrombus. carotid dopplers
   with 40% stenosis of right side, left side without significant
   stenosis. patient cannot receive MRI of the head given previous
   surgical staples in cranium
   - SBP < 200 and > 160, ASA 300 mg PR qd, HOB < 30 degrees or flat as
   tolerated per neurology, however with chest x-ray findings are
   concerning for aspiration pneumonia, would like to put head upright to
   prevent furthur aspiration
   - neurologic exam has not improved significantly since admission, no
   intervention was performed
   - maintain NPO for now, will need to readdress nutritional status soon
   - patient likely with MI prior to admission (enzymes on admission
   trended down) but new evidence of regional systolic dysfunction and
   pulmonary hypertension
   - carotid dopplers without acute lesion
   -f/u neurology recommendations from today
   #Pulmonary Edema: Likely related to pulmonary HTN vs. flash pulmonary
   edema during stroke event. Patient is intubated. CXR this morning
   appears to have evidence of pulmonary infiltrates as well as .
   - 20 mg IV lasix as needed however monitor for above BP parameters
   - f/u CXR for resolution as pt is high risk of aspiration
   - pressure support trial today then check ABG then goal to extubate
    #Hypertension:  BPs remained within range set by neurology except for
   period of atrial fibrillation w/administration of lopressor- BPs down
   to 140s/70s.  Patient takes only atenolol 50 mg daily as an outpatient.
   Also concern for ischemic event given EKG changes and elevated CE which
   would likely suggest ischemia. Therefore, need to clarify with
   neurology if his BP goals need to be so high.
   - lasix 20 mg IV now for pulmonary edema
   - telemetry
    #Atrial Fibrillation: Patient had not been anticoagulated x3weeks
   given presenting hematuria and wet macular degeneration. Would benefit
   from good heart rate control to avoid demand ischemia. Currently not
   candidate for further anticoagulation until resolution of hematuria.
   - patient started on PO metoprolol as well as amiodarone for persistent
   afib, currently in NSR
   - ASA PR
   - cardiology has been seeing patient, suspect that LV dysfunction from
   CAD, reccomending HTN management as well as CAD treatment, still need
   input for rate controlling [**Doctor Last Name **] in the setting of persistently
   elevated blood pressure
    #Bladder Cancer:  Now s/p transurethral ressection with pending
   pathology.  Will need to follow up with urology for care
   recommendations while in ICU. Patient initially with clear urine but
   progressively more bloody overnight, restarted CBI.
   - d/c continuous bladder irrigation for now, if grossly bloody again,
   would consider restarting as per urolgoy
   - follow with urology
   - repeat electrolytes
    #Macular Degneration:
   - continue eye drops
    #Anemia:  Patient's hematocrit is 33.2 with a MCV of 79 concerning for
   iron deficiency.  Likely secondary to patient
s long-standing hematuria
   but given history of malignancy (both bladder and colon ca) also may be
   playing a role.
   - started on oral iron for iron studies consistent with iron defiency
   anemia
    #FEN: tube feeds, replete electrolytes as needed.
    #Prophylaxis: pneumoboots, pantoprazole
    #Code Status: Full Code, confirmed with neice [**Name (NI) 1574**] [**Name (NI) 1575**]
    #Communication: Brother [**Name (NI) 31**] ([**Telephone/Fax (1) 1576**]) and niece [**Name (NI) 1574**] [**Name (NI) 1575**]
   ([**Telephone/Fax (1) 1577**]). Niece is a physician in NY.
     Dispo: ICU pending improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2162-8-28**] 09:34 PM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have examined the patient and have reviewed his history and relevant
   labs.  I also have been physically present with the MICU team for the
   key portions of the services provided.  I agree with the note above,
   including the assessment and plan.  I would add and emphasize the
   following:
   Overnight the patient has been stable and this am is more awake and
   moving left side a bit.
   On exam: Tm= 100.1 P=53 (post amio load), BP=157/57, sat = 100% on
   vent: A/C 450, RR 16, PEEP 5, 40%
   I/O = +1.1L
   Patient is alert and moving and cooperative.  He can lift left foot off
   of bed.  Left hand still barely moving
   Lungs
 crackles left base
   Lab:  Hct down to 26%  Echo: LVEF reduced now to 40% with segmental
   wall motion abnormalities.  LENIs neg
   Imp:
   1.       Right brain MCA CVA, likely from AFib and atrial source, as
   opposed to paradoxic embolus via ASD
   2.       Resp failure, chiefly due to #1 and obtundation, now improved
   3.       Pneumonia, LLL and possibly RLL, asp?
   4.       CAD, by echo
   5.       ASD with signif pulm htn on echo
   6.       AFib, S/P RVR, now better post amio load
   7.       Anemia
   Plan:
   1.       Change vent to PSV and check ABG in an effort to queue up for
   extubation
   2.       Transfuse for Hct< 25
   3.       Ask Cards re: continue amio p.o. vs change to beta blocker
   4.       Ask Neuro re: should coumadin be restarted (pt now on just
   asprin)
   5.       I
ve personally spoken to pt
s neice [**Name (NI) 1574**] and pt
s brother
   [**Name (NI) **] Critically ill.  Total Time = 35 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], [**MD Number(1) 1622**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2162-8-29**] 17:47 ------

2162-08-30 07:24:00 Physician Resident Progress Note
Chief Complaint: 85 year old male with PMHx of intermittent afib,
   previous cerebral bleed, remote colon cancer and hematuria presents
   post-op from transurethral resection for bladder cancer with new onset
   ischemic stroke.
   24 Hour Events:
   Yesterday called neurology as no new notes left in chart. Spoke with
   resident on-call [**Location (un) 41**] who spoke with chief. Reccomended re-imaging with
   repeat head CT for progression of stroke. After repeat imaging, spoke
   again with neurology who said that given size of stroke patient is not
   a candidate for anticoagulation at this time. Also said okay to come
   down on blood pressure goals to 160-180s.  Goal for extubation this AM
   - turn down propofol drip this morning and starting labetalol drip as
   needed for blood pressure management. Patient was extubated this
   morning without complication.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-29**] 06:18 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Labetalol - 2 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-8-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-8-30**] 05:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2162-8-30**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 54 (49 - 65) bpm
   BP: 181/64(105) {136/45(73) - 202/74(120)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
    CVP: 9 (6 - 14)mmHg
   Total In:
                                                                  1,830 mL
                                                                    453 mL
   PO:
   TF:
                                                                  1,210 mL
                                                                    260 mL
   IVF:
                                                                    560 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    650 mL
   Urine:
                                                                  1,000 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    830 mL
                                                                   -197 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 495 (391 - 507) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 56.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/38/168/26/3
   Ve: 8 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No acute distress, no longer sedated
   Head, Ears, Nose, Throat: Poor dentition, fask mask in place
   Cardiovascular: (S1: Normal), (S2: Normal), bradycardic, no murmur
   appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: diffuse wheezing bilaterally: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: moves right extremity on his own, is now moving left lower
   leg in response to pain, has withdrawn from painful stimuli on right
   arm, awake, right eye deviation, blinks to threat on right side, does
   not blink to threat on left side
   Labs / Radiology
   205 K/uL
   9.2 g/dL
   122 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.2 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:35 PM
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
                             [**2162-8-29**]  04:56 AM
                             [**2162-8-29**]  02:10 PM
                             [**2162-8-30**]  04:58 AM
   WBC
   11.6
   13.0
   8.3
   7.6
   8.0
   Hct
   30.8
   30.4
   28.8
   26.4
   27.7
   Plt
   [**Telephone/Fax (3) 1646**]06
   205
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   TropT
   0.10
   0.07
   TCO2
   27
   28
   30
   29
   28
   Glucose
   111
   128
   121
   141
   122
   Other labs: PT / PTT / INR:15.6/41.3/1.4, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**8-4**], Alk Phos / T Bili:76/0.5,
   Albumin:3.6 g/dL, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   85 year old male with PMHx of intermittent afib, previous cerebral
   bleed, remote colon cancer, and hematuria presents post-op from
   transurethral bladder resection for bladder cancer with new onset
   ischemic stroke
   #Embolic Stroke:  Per neurology team, CTA is consistent with thrombus
   in the M2 segment of the MCA.  Currently maintaining SBP per neuro
   recs, which as of [**8-29**] can be maintained between 160-180s systolic,
   continue ASA, and with arterial line to monitor vitals. Echo performed
   shows EF 45% which is much decreased from previous echo in [**2158**] when EF
   was 60-70%. Also echo with  regional left systolic dysfunction which is
   consistent with ischemic event. Evidence of pulmonary hyptertenion. no
   evidence of thrombus. carotid dopplers with 40% stenosis of right side,
   left side without significant stenosis. patient cannot receive MRI of
   the head given previous surgical staples in cranium. repeat CT scan of
   the head [**8-29**] demonstrates large area of infarct which is confined to
   MCA territory.
   - SBP < 180 and > 160, now off propofol for sedation,  using labetalol
   drip for blood pressure control, ASA 300 mg PR qd, HOB < 30 degrees or
   flat as tolerated per neurology, however with chest x-ray findings are
   concerning for aspiration pneumonia, would like to put head upright to
   prevent furthur aspiration, will need to clarify with neurology plan in
   regards to this today
   - no stroke intervention performed, neurologic function is somewhat
   improved, does move left foot intermittently and withdraws to pain,
   albeit inconcistently on left arm
   - continue serial neuro exams
   - will d/c labetalol drip today, start low dose beta blocker, and will
   lower blood pressure parameters now that 72+ hours out of stroke
   - unclear if functionally will be able to [**Last Name (LF) 1080**], [**First Name3 (LF) **] will need speech
   and [**First Name3 (LF) 1080**] evaluation and then pending this possible peg tube
   placement
   - patient likely with previous myocardial insult and also some demand
   ischemia, new evidence of regional systolic dysfunction and pulmonary
   hypertension
   - cardiology consult reccomendations to control blood pressure and also
   treat CAD
   - carotid dopplers without acute lesion
   -follow-up new neuro notes
    #Pulmonary Edema: Likely related to pulmonary HTN vs. flash pulmonary
   edema during stroke event. Chest x-ray with much improved edema, and
   now exam much more clear with some wheezing. Patient now extubated.
   Patient given IV lasix on admission to the unit for pulmonary
   hypertension however has not required much in the way of additional
   lasix in last day.
   - continue to follow serial chest x-rays
   - start nebs for wheezing
   - check a post-extubation gas later this evening
    #Hypertension:  BPs remained within range set by neurology. Periods of
   atrial fibrillation with RVR, attempted IV lopressor and also diltiazem
   drip. Patient takes only atenolol 50 mg daily as an outpatient. Also
   concern for ischemic event given EKG changes and elevated CE which
   would likely suggest ischemia. However, neurology wants to maintain
   goal blood pressure of 160-180s.
   - as per neuro this morning, can again lower blood pressure goals to
   140-160s
   - d/c dilt drip, start low dose b-blocker with additional PRN as
   tolerated
   - continue tight BP monitoring
   #Atrial Fibrillation: Patient had not been anticoagulated x3weeks given
   presenting hematuria and wet macular degeneration. Would benefit from
   heart rate control to avoid demand ischemia. Currently not candidate
   for further anticoagulation as evidence of large infarct on repeat CT
   scan.
   - on ASA 325 mg PO daily, not candidate for anticoagulation at this
   time given extent of stroke
   - cardiology has been seeing patient, suspect that LV dysfunction from
   CAD, reccomending HTN management as well as CAD treatment - on asa and
   statin
   - re-start beta blocker as above
   #Bladder Cancer:  Now s/p transurethral ressection with pending
   pathology.  Will need to follow up with urology.  Patient initially
   with clear urine but progressively more bloody overnight, restarted
   CBI.
   - d/c continuous bladder irrigation for now, if grossly bloody again,
   would consider restarting as per urolgoy
   - follow with urology
   - repeat electrolytes
    #Macular Degneration:
   - continue eye drops
    #Anemia:  Patient's hematocrit is 33.2 with a MCV of 79 concerning for
   iron deficiency.  Likely secondary to patient
s long-standing hematuria
   but given history of malignancy (both bladder and colon ca) also may be
   playing a role.
   - started on oral iron for iron studies consistent with iron defiency
   anemia
     #FEN: will need speech and [**First Name3 (LF) 1080**] to evaluate whether patient can
   eat post stroke. If not, then will need peg and nutrition recs
     #Prophylaxis: pneumoboots, pantoprazole, subQ heparin
    #Code Status: Full Code, confirmed with neice [**Name (NI) 1574**] [**Name (NI) 1575**]
    #Communication: Brother [**Name (NI) 31**] ([**Telephone/Fax (1) 1576**]) and niece [**Name (NI) 1574**] [**Name (NI) 1575**]
   ([**Telephone/Fax (1) 1577**]). Niece is a physician in NY.
    Dispo: ICU pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-08-30 10:00:00 Physician Attending Progress Note
Chief Complaint: Stroke
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT Head--Significant evolution of area of infarction in right MCA
   region.  Input from Neurology to hold anti-coagulation at this time.
   PSV weaned to low levels and patient extubated this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-29**] 06:18 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Labetalol - 1.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-8-30**] 05:30 AM
   Pantoprazole (Protonix) - [**2162-8-30**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Tachypnea, Mild with PSV wean
   Flowsheet Data as of  [**2162-8-30**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 54 (49 - 66) bpm
   BP: 138/50(78) {136/45(73) - 202/74(120)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
   CVP: 9 (6 - 14)mmHg
   Total In:
                                                                  1,830 mL
                                                                    891 mL
   PO:
   TF:
                                                                  1,210 mL
                                                                    260 mL
   IVF:
                                                                    560 mL
                                                                    570 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    650 mL
   Urine:
                                                                  1,000 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    830 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (391 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/40/131/26/4
   Ve: 7.9 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
Patient with significant wheezing on
   expiration
   Neuro:Pt with movement in LUE and LLE.  There are brisk reflexes
   bilaterally and equivocal toe response in left foot.  This exam is
   clouded by recent extubation but by report appears either unchanged or
   improved from previous.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   205 K/uL
   122 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.2 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2162-8-26**]  09:57 PM
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
                             [**2162-8-29**]  04:56 AM
                             [**2162-8-29**]  02:10 PM
                             [**2162-8-30**]  04:58 AM
                             [**2162-8-30**]  08:08 AM
   WBC
   11.6
   13.0
   8.3
   7.6
   8.0
   Hct
   30.8
   30.4
   28.8
   26.4
   27.7
   Plt
   [**Telephone/Fax (3) 1646**]06
   205
   Cr
   1.2
   1.3
   1.3
   1.2
   1.1
   TropT
   0.10
   0.07
   TCO2
   28
   30
   29
   28
   29
   Glucose
   111
   128
   121
   141
   122
   Other labs: PT / PTT / INR:15.6/41.3/1.4, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**8-4**], Alk Phos / T Bili:76/0.5,
   Albumin:3.6 g/dL, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Imaging: CXR-ETT 1 cm from carina, CVL in good position, bilteral
   patchy infiltrates appear unchanged
   CT Head--evolution of significant are of insult in right MCA
   distribution.
   Assessment and Plan
   85 yo male with h/o A-fib now presenting post op from bladder resection
   with acute ischemic stroke to ICU.  He has had evolution of significant
   area of insult in right MCA distribution and has, although still
   impaired, some improved mental status and responsiveness allowing move
   to extubation this am.
   Respiratory Failure-
   -Extubated this am
   -Will need pulmonary toiled and npo status to minimze chances or
   re-intubation
   -Will need continued negative fluid balance today given change in
   pressures with extubation
   -Will need to trial bronchodilators to minimize contribution from
   bronchospasm
   -Levofloxacin course to be discontinued with negative cultures to date
   from respiratory standpoint
   Stroke-
   -Does appear embolic by distribution and history of A-fib
   -With follow up CT area of involvement is significant
   -Do have neuro input with advice to avoid systemic anticoagulation
   given risk of hemorrhagic evolution
   -npo, speech and swallow and will have to consider safe route for
   enteral feeding
   -ASA to continue for secondary prevention
   Hypertension-
   -Does have history and indications for maintenance of elevated
   pressures in the immediate post stroke period in the setting of a
   history of hypertension.  Given 48 hours of reasonable support will now
   move to maintain baseline blood pressure.
   -Favor po beta-blocker as possible
   -IV meds until able to stabilize po intake plan
   -Labetolol for now.
   Atrial Fibrillation-
   -In SR now
   -Labetolol
   -ASA continuing
   -Cardiology noting regional LV wall dysfunction and recommended medical
   management
   Hematuria-
   -Will clarify Levoflox Rx with Urology
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2162-08-31 07:07:00 Physician Resident Progress Note
Chief Complaint: Stroke
   24 Hour Events:
   -Neurology suggested yesterday re-starting warfarin and continue ASA.
   They believe risk for second stroke is higher due to AF/AFl, lying in
   bed with ASD, than worsening recent stroke with hemorrhage.
   -Patient was successfully extubated yesterday.
   -Patient had episodes with agitation and hypertension. Haldol did not
   help (1mg IV). Labetalol was given for HTN.
   -S&S saw him and failed bedside [** 1080**] test. Will re-evaluate today.
   If patient fails will need PEG for long-term nutrition.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-29**] 06:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-8-30**] 08:06 AM
   Furosemide (Lasix) - [**2162-8-30**] 03:51 PM
   Heparin Sodium (Prophylaxis) - [**2162-8-31**] 06:00 AM
   Metoprolol - [**2162-8-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-8-31**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 58 (54 - 70) bpm
   BP: 153/61(92) {138/50(78) - 190/75(117)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,291 mL
                                                                    120 mL
   PO:
   TF:
                                                                    260 mL
   IVF:
                                                                    971 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    300 mL
   Urine:
                                                                  4,220 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,929 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (467 - 467) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/40/131/30/4
   Ve: 7.9 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale, Dry mucous membranes
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, JVD not
   visible, RIJ looks clean, no briuts
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, CN patient with L side
   hemiparesis; no babinsky, good muscle tone, normal ROTs bilateraly.
   Labs / Radiology
   211 K/uL
   9.7 g/dL
   102 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   100 mEq/L
   138 mEq/L
   29.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2162-8-26**]  11:20 PM
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
                             [**2162-8-29**]  04:56 AM
                             [**2162-8-29**]  02:10 PM
                             [**2162-8-30**]  04:58 AM
                             [**2162-8-30**]  08:08 AM
                             [**2162-8-31**]  04:38 AM
   WBC
   13.0
   8.3
   7.6
   8.0
   6.7
   Hct
   30.4
   28.8
   26.4
   27.7
   29.6
   Plt
   [**Telephone/Fax (3) 1725**]05
   211
   Cr
   1.3
   1.3
   1.2
   1.1
   1.3
   TropT
   0.07
   TCO2
   28
   30
   29
   28
   29
   Glucose
   128
   121
   141
   122
   102
   Other labs: PT / PTT / INR:16.2/37.5/1.4, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**8-4**], Alk Phos / T Bili:76/0.5,
   Albumin:3.6 g/dL, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   85 year old male with PMHx of intermittent afib, previous cerebral
   bleed, remote colon cancer, and hematuria presents post-op from
   transurethral bladder resection for bladder cancer with new onset
   ischemic stroke
   #Embolic Stroke:  Per neurology team, CTA is consistent with thrombus
   in the M2 segment of the MCA.  Currently maintaining SBP per neuro
   recs, which as of [**8-29**] can be maintained between 160-180s systolic,
   continue ASA, and with arterial line to monitor vitals. Echo performed
   shows EF 45% which is much decreased from previous echo in [**2158**] when EF
   was 60-70%. Also echo with  regional left systolic dysfunction which is
   consistent with ischemic event. Evidence of pulmonary hyptertenion. no
   evidence of thrombus. carotid dopplers with 40% stenosis of right side,
   left side without significant stenosis. patient cannot receive MRI of
   the head given previous surgical staples in cranium. repeat CT scan of
   the head [**8-29**] demonstrates large area of infarct which is confined to
   MCA territory.
   - SBP < 180 and > 160, now off propofol for sedation,  using labetalol
   drip for blood pressure control, ASA 300 mg PR qd, HOB < 30 degrees or
   flat as tolerated per neurology, however with chest x-ray findings are
   concerning for aspiration pneumonia, would like to put head upright to
   prevent furthur aspiration, will need to clarify with neurology plan in
   regards to this today
   - no stroke intervention performed, neurologic function is somewhat
   improved, does move left foot intermittently and withdraws to pain,
   albeit inconcistently on left arm
   - continue serial neuro exams
   - will d/c labetalol drip today, start low dose beta blocker, and will
   lower blood pressure parameters now that 72+ hours out of stroke
   - unclear if functionally will be able to [**Last Name (LF) 1080**], [**First Name3 (LF) **] will need speech
   and [**First Name3 (LF) 1080**] evaluation and then pending this possible peg tube
   placement
   - patient likely with previous myocardial insult and also some demand
   ischemia, new evidence of regional systolic dysfunction and pulmonary
   hypertension
   - cardiology consult reccomendations to control blood pressure and also
   treat CAD
   - carotid dopplers without acute lesion
   -follow-up new neuro notes
    #Pulmonary Edema: Likely related to pulmonary HTN vs. flash pulmonary
   edema during stroke event. Chest x-ray with much improved edema, and
   now exam much more clear with some wheezing. Patient now extubated.
   Patient given IV lasix on admission to the unit for pulmonary
   hypertension however has not required much in the way of additional
   lasix in last day.
   - continue to follow serial chest x-rays
   - start nebs for wheezing
   - check a post-extubation gas later this evening
    #Hypertension:  BPs remained within range set by neurology. Periods of
   atrial fibrillation with RVR, attempted IV lopressor and also diltiazem
   drip. Patient takes only atenolol 50 mg daily as an outpatient. Also
   concern for ischemic event given EKG changes and elevated CE which
   would likely suggest ischemia. However, neurology wants to maintain
   goal blood pressure of 160-180s.
   - as per neuro this morning, can again lower blood pressure goals to
   140-160s
   - d/c dilt drip, start low dose b-blocker with additional PRN as
   tolerated
   - continue tight BP monitoring
   #Atrial Fibrillation: Patient had not been anticoagulated x3weeks given
   presenting hematuria and wet macular degeneration. Would benefit from
   heart rate control to avoid demand ischemia. Currently not candidate
   for further anticoagulation as evidence of large infarct on repeat CT
   scan.
   - on ASA 325 mg PO daily, not candidate for anticoagulation at this
   time given extent of stroke
   - cardiology has been seeing patient, suspect that LV dysfunction from
   CAD, reccomending HTN management as well as CAD treatment - on asa and
   statin
   - re-start beta blocker as above
   #Bladder Cancer:  Now s/p transurethral ressection with pending
   pathology.  Will need to follow up with urology.  Patient initially
   with clear urine but progressively more bloody overnight, restarted
   CBI.
   - d/c continuous bladder irrigation for now, if grossly bloody again,
   would consider restarting as per urolgoy
   - follow with urology
   - repeat electrolytes
    #Macular Degneration:
   - continue eye drops
    #Anemia:  Patient's hematocrit is 33.2 with a MCV of 79 concerning for
   iron deficiency.  Likely secondary to patient
s long-standing hematuria
   but given history of malignancy (both bladder and colon ca) also may be
   playing a role.
   - started on oral iron for iron studies consistent with iron defiency
   anemia
     #FEN: will need speech and [**First Name3 (LF) 1080**] to evaluate whether patient can
   eat post stroke. If not, then will need peg and nutrition recs
     #Prophylaxis: pneumoboots, pantoprazole, subQ heparin
    #Code Status: Full Code, confirmed with neice [**Name (NI) 1574**] [**Name (NI) 1575**]
    #Communication: Brother [**Name (NI) 31**] ([**Telephone/Fax (1) 1576**]) and niece [**Name (NI) 1574**] [**Name (NI) 1575**]
   ([**Telephone/Fax (1) 1577**]). Niece is a physician in NY.
    Dispo: ICU pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-08-31 11:19:00 Physician Attending Progress Note
Chief Complaint: CVA
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient extubated without event
   Speech and Swallow eval reveals significant aspiration with PO intake
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-8-29**] 06:18 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-8-30**] 03:51 PM
   Heparin Sodium (Prophylaxis) - [**2162-8-31**] 06:00 AM
   Metoprolol - [**2162-8-31**] 06:00 AM
   Pantoprazole (Protonix) - [**2162-8-31**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-8-31**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 53 (52 - 70) bpm
   BP: 164/65(98) {150/50(83) - 190/75(117)} mmHg
   RR: 13 (7 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 56.6 kg (admission): 59.8 kg
   Height: 60 Inch
   CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,291 mL
                                                                    199 mL
   PO:
   TF:
                                                                    260 mL
   IVF:
                                                                    971 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    410 mL
   Urine:
                                                                  4,220 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,929 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.43/45/159/30/5
   PaO2 / FiO2: 398
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, aphasic
   Labs / Radiology
   9.7 g/dL
   211 K/uL
   102 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   100 mEq/L
   138 mEq/L
   29.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2162-8-27**]  04:50 AM
                             [**2162-8-27**]  10:38 AM
                             [**2162-8-27**]  01:11 PM
                             [**2162-8-28**]  03:47 AM
                             [**2162-8-29**]  04:56 AM
                             [**2162-8-29**]  02:10 PM
                             [**2162-8-30**]  04:58 AM
                             [**2162-8-30**]  08:08 AM
                             [**2162-8-31**]  04:38 AM
                             [**2162-8-31**]  10:31 AM
   WBC
   13.0
   8.3
   7.6
   8.0
   6.7
   Hct
   30.4
   28.8
   26.4
   27.7
   29.6
   Plt
   [**Telephone/Fax (3) 1725**]05
   211
   Cr
   1.3
   1.3
   1.2
   1.1
   1.3
   TropT
   0.07
   TCO2
   30
   29
   28
   29
   31
   Glucose
   128
   121
   141
   122
   102
   Other labs: PT / PTT / INR:16.2/37.5/1.4, CK / CKMB /
   Troponin-T:311/10/0.07, ALT / AST:[**8-4**], Alk Phos / T Bili:76/0.5,
   Albumin:3.6 g/dL, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Fluid analysis / Other labs: 7.43/45/159
   Assessment and Plan
   85 yo male admit with respiratory failure and ischemic CVA.  Now
   patient is extubated without event.  He retains significant deficit
   following CVA but has been able to show modest improvement in alertness
   and responsiveness following extubation.
   1)Respiratory Failure-
   -Extubated
   -Maintain aspiration precautions
   -Wean O2 as possible
   2)CVA-
   -ASA PR
   -Control BP at baseline levels
   -repeat speech and swallow
   -[**Month (only) 51**] need NGt to allow delivery of po medications.
   3)Atrial Fibrillation-
   -In SR
   -Avoid anticoagulation given risk of hemorrhagic transformation
   4)HTN-
   BP control with IV medications
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2162-8-27**] 04:20 AM
   Arterial Line - [**2162-8-27**] 10:30 AM
   18 Gauge - [**2162-8-27**] 11:24 AM
   Multi Lumen - [**2162-8-27**] 06:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35